US09284323B2
Preparation of ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate:
To a solution of ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (˜8.7 mmol) in CH2Cl2 (40 mL) was added Dess-Martin periodinane (4.07 g, 9.6 mmol). After 1.5 h, a saturated solution of Na2S2O4 (20 mL) and water (20 mL) was added. The mixture was stirred vigorously for 30 min. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give 3 the titled compound. 1H-NMR: 400 MHz, (CDCl3) δ: 8.22 (s, 1H), 7.70 (m, 3H), 4.41 (q, J=7 Hz, 2H), 2.47 (s, 3H), 1.39 (t, J=7 Hz, 3H). 19F-NMR: 377 MHz, (CDCl3) δ: −73.2.

reactant | ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | ˜8.7 mmol | BrC1=CC=C2C=C(C(=C(C2=C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)O)C | C16H14BrF3O6S
reactant | Dess-Martin periodinane | 9.6 mmol, 4.07 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O4 | 20 mL | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | water | 20 mL | O | H2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | BrC1=CC=C2C=C(C(=C(C2=C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
